US07521447B2
Step A: 5-Fluoro-2-[1-(2-hydroxy-2-methylpropyl)-1H-indazol-5-yloxy]-benzonitrile:
A solution of 5-fluoro-2-(1H-indazol-5-yloxy)-benzonitrile (0.100 g, 0.395 mmol) in DMF (4 mL) was treated with NaH (0.022 g, 60%, 056 mmol) and stirred for 5 minutes. 2,2-Dimethyloxirane (0.035 g, 0.48 mmol) was added and the solution was stirred at room temperature for 1 hour. The reaction mixture was then heated to 80° C. for 1.5 hours. The solution was cooled to room temperature, diluted with ether (50 mL), washed with water (3×5 mL), brine, dried over MgSO4, and concentrated under reduced pressure. The residue was chromatographed eluting with ethyl acetate/hexanes (1:1) to afford 0.070 g of product (47% yield).

reactant | 5-fluoro-2-(1H-indazol-5-yloxy)-benzonitrile | 0.395 mmol, 0.100 g | FC=1C=CC(=C(C#N)C1)OC=1C=C2C=NNC2=CC1 | C14H8FN3O
reactant | NaH | 0.022 g | [H-].[Na+]
reactant | 2,2-Dimethyloxirane | 0.48 mmol, 0.035 g | CC1(OC1)C | C4H8O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | ether | 50 mL | CCOCC | C4H10O
product | 5-Fluoro-2-[1-(2-hydroxy-2-methylpropyl)-1H-indazol-5-yloxy]-benzonitrile | 0.070 g, 47% yield | FC=1C=CC(=C(C#N)C1)OC=1C=C2C=NN(C2=CC1)CC(C)(C)O | C18H16FN3O2
